US07888349B2
Triethylamine (20.4 g, 202 mmol) was added to a solution of tert-butyl 3-[(3-aminoquinolin-4-yl)amino]propylcarbamate (42.52 g, 134.4 mmol) in dichloromethane (500 mnL). Chloroacetyl chloride (16.7 g, 148 mmol) was added dropwise, and the reaction was stirred overnight at ambient temperature. The reaction mixture was filtered to remove a solid; the filtrate was concentrated under reduced pressure and mixed with ethyl acetate. The resulting mixture was filtered to remove a solid, washed sequentially with brine (3×) and dilute aqueous sodium bicarbonate, concentrated under reduced pressure, and dried under high vacuum to provide 41.9 g of tert-butyl 3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate.

reactant | Triethylamine | 202 mmol, 20.4 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-[(3-aminoquinolin-4-yl)amino]propylcarbamate | 134.4 mmol, 42.52 g | NC=1C=NC2=CC=CC=C2C1NCCCNC(OC(C)(C)C)=O | C17H24N4O2
reactant | Chloroacetyl chloride | 148 mmol, 16.7 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate | 41.9 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCNC(OC(C)(C)C)=O | C19H23ClN4O2
